US08283353B2
4′-({4-[trans-4-(3-fluoro-2-hydroxy-2-methylpropoxy)cyclohexyl]-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile
A mixture of 4′-[(2-methyl-4-{trans-4-[(2-methyloxiran-2-yl)methoxy]cyclohexyl}-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile (0.19 g), tetra-n-butylammonium dihydrogentrifluoride (0.65 g) and chlorobenzene (0.5 mL) was stirred at 120° C. for 20 hr. The reaction mixture was purified by silica gel column chromatography to give the title compound as a colorless solid (0.094 g, 46%).

reactant | 4′-[(2-methyl-4-{trans-4-[(2-methyloxiran-2-yl)methoxy]cyclohexyl}-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile | 0.19 g | CC1=NN2C(N(C(C(=C2CCC)CC2=CC=C(C=C2)C=2C(=CC=CC2)C#N)=O)[C@@H]2CC[C@H](CC2)OCC2(OC2)C)=N1 | C33H37N5O3
reactant | tetra-n-butylammonium dihydrogentrifluoride | 0.65 g | CCCC[N+](CCCC)(CCCC)CCCC.F.F.[F-]
solvent | chlorobenzene | 0.5 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 4′-({4-[trans-4-(3-fluoro-2-hydroxy-2-methylpropoxy)cyclohexyl]-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 0.094 g, 46% | FCC(CO[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=C(N2)C)(C)O | C33H38FN5O3
